US05912353
Synthesis of Dipotassium 2-[[5-ethyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazolin-2-ylidene]aminocarbonyl]-1-cyclopentenecarboxylate
In a mixed solution containing 15 ml of water and 16 ml of a 0.5N potassium hydroxide solution in ethanol, 2.0 g of 2-[[5-ethyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazolin-2-yliden]aminocarbonyl]-1-cyclopentenecarboxylic acid was dissolved. From the resulting solution, the solvent was distilled off. To the residue, 50 ml of ethanol was added, and the resulting mixture was allowed to stand overnight. The crystals so precipitated were collected by filtration and dried, whereby 2.24 g of the title compound was obtained.

reactant | water | 15 ml | O | H2O
reactant | potassium hydroxide | 0.5N | [OH-].[K+]
reactant | 2-[[5-ethyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazolin-2-yliden]aminocarbonyl]-1-cyclopentenecarboxylic acid | 2.0 g | C(C)C1=NN(C(S1)=NC(=O)C1=C(CCC1)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C25H23N7O3S
solvent | ethanol | C(C)O | C2H6O
product | Dipotassium 2-[[5-ethyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazolin-2-ylidene]aminocarbonyl]-1-cyclopentenecarboxylate | 2.24 g | C(C)C1=NN(C(S1)=NC(=O)C1=C(CCC1)C(=O)[O-])CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1.[K+].[K+].C(C)C1=NN(C(S1)=NC(=O)C1=C(CCC1)C(=O)[O-])CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | InChI=1S/2C25H23N7O3S.2K/c2*1-2-21-29-32(25(36-21)26-23(33)19-8-5-9-20(19)24(34)35)14-15-10-12-16(13-11-15)17-6-3-4-7-18(17)22-27-30-31-28-22;;/h2*3-4,6-7,10-13H,2,5,8-9,14H2,1H3,(H,34,35)(H,27,28,30,31);;/q;;2*+1/p-2
